US06586447B1
7A. 6-Bromo-1-naphthalen-1-ylmethyl-3,3-bis-pyridin-4-ylmethyl-1,3-dihydro-indol-2-one
6-Bromo-1-naphthalen-1-ylmethyl-1,3-dihydro-indol-2-one (195 mg, 0.554 mmol) was dissolved in 1 ml of THF and was then added to a previously degassed solution of 3 ml of THF and 5 ml of aqueous 1 N KOH under an atmosphere of dry N2. To this solution was added 4-picolyl chloride hydrochloride (275 mg, 1.67 mmol). The reaction mixture was then stirred at ambient temperature for 2 hours after which time the reaction mixture was concentrated under vacuum to give a green oil. The oil was partitioned between DCM and saturated aqueous NaHCO3. The DCM layer was then washed with brine, dried over Na2SO4, filtered and concentrated under vacuum to give a dark oil which was chromatographed on flash silica gel eluting with a gradient from EtOAc/hexanes (50:50) to EtOAc to EtOAc/MeOH (95:5) to give 140 mg of the titled compound as a colorless oil.

reactant | 6-Bromo-1-naphthalen-1-ylmethyl-1,3-dihydro-indol-2-one | 0.554 mmol, 195 mg | BrC1=CC=C2CC(N(C2=C1)CC1=CC=CC2=CC=CC=C12)=O | C19H14BrNO
reactant | KOH | 1 N | [OH-].[K+]
reactant | 4-picolyl chloride hydrochloride | 1.67 mmol, 275 mg | Cl.N1=CC=C(C=C1)CCl
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-Bromo-1-naphthalen-1-ylmethyl-3,3-bis-pyridin-4-ylmethyl-1,3-dihydro-indol-2-one | 140 mg | BrC1=CC=C2C(C(N(C2=C1)CC1=CC=CC2=CC=CC=C12)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C31H24BrN3O
